US09427475B2
Step E: 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl azide
To a solution of 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl methanesulfonate (3.78 g, 5.72 mmol) in AcCN (50 mL) was added tetrabutylammonium azide (1.66 g, 5.83 mmol). The resulting mixture allowed to reflux overnight. After cooled to rt, the reaction mixture was concentrated. The residue was dissolved in ether (50 mL), which was washed with water (2×50 mL), brine (25 mL), dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on silica gel (120 g, eluting with 0-30% EtOAc in hexanes) to give the title compound. 1H NMR (CDCl3) δ 1.58-1.68 (m, 2H), 1.74-1.86 (m, 2H), 3.32-3.41 (m, 2H), 3.58-3.76 (m, 4H), 3.76-3.85 (m, 2H), 4.40 (m, 1H), 4.52 (t, J=10.4, 2H), 4.65 (dd, J=11.7, 2.5, 2H), 4.75 (d, J=11.7, 1H), 4.86 (m, 2H), 4.97 (d, J=10.8, 1H), 7.16 (m, 2H), 7.28-7.40 (m, 18H).

reactant | 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl methanesulfonate | 5.72 mmol, 3.78 g | CS(=O)(=O)OCCC[C@@H]1[C@H](OCC2=CC=CC=C2)[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1 | C38H44O8S
reactant | tetrabutylammonium azide | 5.83 mmol, 1.66 g | [N-]=[N+]=[N-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | AcCN | 50 mL | C(=O)(C)C#N | C3H3NO
product | 3-(2,3,4,6-tetra-O-benzyl-α-D-glucopyranosyl)propyl azide | C(C1=CC=CC=C1)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CCCN=[N+]=[N-] | C37H41N3O5
